US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 8-cyanochroman-4-carboxylic acid (0.7 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.92 g) as starting materials, 8-cyano-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide (1.0 g) was obtained. melting point: 178.8° C.

reactant | 8-cyanochroman-4-carboxylic acid | 0.7 g | C(#N)C=1C=CC=C2C(CCOC12)C(=O)O | C11H9NO3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.92 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | 8-cyano-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide | 1.0 g | C(#N)C=1C=CC=C2C(CCOC12)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C29H31N3O2
